US05278326
Step B: Preparation of 2,2-dimethyl-3-oxo-N-(2,4,6-trimethoxyphenyl)-tetradecanamide
To a flask containing 10 mL benzene which had been flushed with nitrogen, trimethylaluminum (2.0M hexane solution, 0.003 mol, 1.14 eq) was added dropwise and cooled to 5° C. A solution of 2,4,6-trimethoxyaniline (0.653 g, 0.003 mol) in 1.5 mL benzene was added dropwise (exotherm to 10° C.) and stirred for 20 minutes at 5° C. The ice bath was removed and the contents were allowed to gradually warm to room temperature over a 45-minute period. A solution of 2,2-dimethyl-3-oxo-tetradecanoic acid ethyl ester (1.0 g, 0.003 mol) in 1.5 mL benzene was added dropwise and the resulting reaction mixture was heated to reflux for 16 hours (M. F. Lipton, et al, Org. Syn. Coll. Vol. 2, 492). After cooling to room temperature, the mixture was hydrolyzed slowly with 2% HCl solution (5 mi) and stirred for 20 minutes. The layers were then separated and the aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), and concentrated in vacuo (30° C.) to yield a residue which was washed with hot hexanes, cooled, filtered, and oven-dried to yield 0.340 g (0.78 mmol, 26%) of the title compound, mp 92°-94° C.

reactant | trimethylaluminum | 0.003 mol, 2.0M, 1.14 eq | C[Al](C)C
reactant | 2,4,6-trimethoxyaniline | 0.003 mol, 0.653 g | COC1=C(N)C(=CC(=C1)OC)OC | C9H13NO3
reactant | 2,2-dimethyl-3-oxo-tetradecanoic acid ethyl ester | 0.003 mol, 1.0 g | C(C)OC(C(C(CCCCCCCCCCC)=O)(C)C)=O | C18H34O3
reactant | HCl | Cl | ClH
solvent | benzene | 1.5 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 1.5 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 2,2-dimethyl-3-oxo-N-(2,4,6-trimethoxyphenyl)-tetradecanamide | 0.78 mmol, 0.340 g, 26% | CC(C(=O)NC1=C(C=C(C=C1OC)OC)OC)(C(CCCCCCCCCCC)=O)C | C25H41NO5
